US03991106
Step D: Preparation of Ethyl 7-{N-[4-hydroxy-5-(4-fluorophenoxy)pentyl]methanesulfonamido}heptanoate
To a stirred suspension of sodium hydride (57%) (278 mg., 0.0065 mole) in a solvent mixture of benzene (25 ml.) and dimethylformamide (25 ml.) is added, over 30 minutes, a solution of p-fluorophenol (730 mg., 0.065 mole) in dimethylformamide (10 ml.). This mixture is stirred 30 minutes at room temperature, then treated with a solution of ethyl 7-[N-(4,5-epoxypentyl)methanesulfonamido]heptanoate (2.2 g., 0.0065 mole) in benzene (10 ml.). The reaction is heated at 90° C. for eighteen hours, then cooled and poured into water (100 ml.). The organic phase is collected, washed with brine and dried over sodium sulfate. Evaporation in vacuo affords a heavy oil that is purified by chromatography over silica gel, using chloroform to elute. Evaporation of the appropriate fractions affords the subject compound. The yield is 1.4 g. (47%) of heavy oil.

reactant | sodium hydride | 0.0065 mole, 278 mg | [H-].[Na+]
reactant | p-fluorophenol | 0.065 mole, 730 mg | FC1=CC=C(C=C1)O | C6H5FO
reactant | ethyl 7-[N-(4,5-epoxypentyl)methanesulfonamido]heptanoate | 0.0065 mole, 2.2 g | O1C(CCCN(S(=O)(=O)C)CCCCCCC(=O)OCC)C1 | C15H29NO5S
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | Ethyl 7-{N-[4-hydroxy-5-(4-fluorophenoxy)pentyl]methanesulfonamido}heptanoate | OC(CCCN(S(=O)(=O)C)CCCCCCC(=O)OCC)COC1=CC=C(C=C1)F | C21H34FNO6S
